US07153854B2
A mixture of ethyl 7-(4-cyanobenzoyl)-8-oxononanoate (2.2 g), 2-ethyl-1H-pyrrol-1-amine (809 mg), and p-toluenesulfonic acid monohydrate (64 mg) in toluene (40 ml) was refluxed for 20 minutes. The mixture was partioned between ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:5) to give the product, which was triturated with hexane to give ethyl 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo-[1,2-b]pyridazin-3-yl]hexanoate (2.21 g) as an yellow crystals.

reactant | ethyl 7-(4-cyanobenzoyl)-8-oxononanoate | 2.2 g | C(#N)C1=CC=C(C(=O)C(CCCCCC(=O)OCC)C(C)=O)C=C1 | C19H23NO4
reactant | 2-ethyl-1H-pyrrol-1-amine | 809 mg | C(C)C=1N(C=CC1)N | C6H10N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 64 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | ethyl 6-[4-(4-cyanophenyl)-7-ethyl-2-methylpyrrolo-[1,2-b]pyridazin-3-yl]hexanoate | 2.21 g | C(#N)C1=CC=C(C=C1)C=1C=2N(N=C(C1CCCCCC(=O)OCC)C)C(=CC2)CC | C25H29N3O2
